US06506534B1
3-Hydroxyadamantyl methacrylate and 4-acetoxystyrene were charged at a charge ratio of 2:8 to synthesize a base resin. The resin obtained was treated with an alkali solution to cause soluvolysis of the acetyl group, thereby obtaining a 3-hydroxyadamantyl methacrylate-vinylphenol copolymer (molecular weight: 4,500). To polyvinylphenol produced by Maruzen Sekiyu, 15 wt % of the copolymer obtained was added and the mixture was dissolved in PGMEA (propylene glycol methyl ether acetate). To this solution, 5 wt % of triphenylsulfoium trifluoromethanesulfonate was added and thoroughly dissolved. The thus-obtained resist solution was filtered through a 0.2 μm teflon membrane filter, spin-coated on a silicon substrate subjected to an HMDS treatment, and pre-baked at 110° C. for 60 seconds to form 0.5 μm-thick resist film. This resist film was exposed by a KrF excimer laser stepper (NA=0.45), baked at 120° C. for 60 seconds, developed with a 2.38% tetramethylammonium hydroxide (TMAH) developer, and rinsed with deionized water. With an exposure amount of 12.0 mJ/cm2, a resolution of 0.25 μmL/S was obtained. In this resist pattern, swelling was not generated.

reactant | 3-Hydroxyadamantyl methacrylate | C(C(=C)C)(=O)OC12CC3(CC(CC(C1)C3)C2)O | C14H20O3
reactant | 4-acetoxystyrene | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
product | 3-hydroxyadamantyl methacrylate vinylphenol | C(C(=C)C)(=O)OC12CC3(CC(CC(C1)C3)C2)O.C(=C)C1=C(C=CC=C1)O | InChI=1S/C14H20O3.C8H8O/c1-9(2)12(15)17-14-6-10-3-11(7-14)5-13(16,4-10)8-14;1-2-7-5-3-4-6-8(7)9/h10-11,16H,1,3-8H2,2H3;2-6,9H,1H2
